US03957988
2,7-Bis(4-piperidinobutyryl)thioxanthene dihydrochloride monohydrate
A mixture of 40.7 g (0.10 mole) of 2,7-bis(4-chlorobutyryl)-thioxanthene, 1 g of potassium iodide and 200 ml of piperidine was stirred and heated on a steam bath for 72 hours. Upon cooling the solution was poured into 1 liter of water. The oily product obtained was dissolved in chloroform, washed with water then saturated NaCl solution, dried over magnesium sulfate and filtered. The filtrate was evaporated to a small volume, cooled, acidified to Congo Red with ethereal HCl and filtered. The resulting solid was recrystallized several times from ethanol to give the desired product. M.P. 229°-231°C.

reactant | 2,7-bis(4-chlorobutyryl)-thioxanthene | 0.10 mole, 40.7 g | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCl)=O | C21H20Cl2O2S
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | piperidine | 200 ml | N1CCCCC1 | C5H11N
reactant | water | 1 liter | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,7-Bis(4-piperidinobutyryl)thioxanthene dihydrochloride monohydrate | O.Cl.Cl.N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCN1CCCCC1)=O | InChI=1S/C31H40N2O2S.2ClH.H2O/c34-28(9-7-19-32-15-3-1-4-16-32)24-11-13-30-26(21-24)23-27-22-25(12-14-31(27)36-30)29(35)10-8-20-33-17-5-2-6-18-33;;;/h11-14,21-22H,1-10,15-20,23H2;2*1H;1H2
